US09227976B2
Step 1: 2-(3-phenyl-1H-pyrazol-5-yl)isoindoline-1,3-dione
A mixture of 3-phenyl-1H-pyrazol-5-amine (6 g, 0.038 mol), phthalic anhydride (5.6 g, 0.038 mol) in acetic acid (60 mL) was heated at 100° C. for 2 h and at 120° C. for 2 h and cooled to room temperature. The reaction mixture was diluted with water and the suspension was filtered. The collected solid was washed with water, dried, yielding the title compound as a solid (10 g).

reactant | 3-phenyl-1H-pyrazol-5-amine | 0.038 mol, 6 g | C1(=CC=CC=C1)C1=NNC(=C1)N | C9H9N3
reactant | phthalic anhydride | 0.038 mol, 5.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(3-phenyl-1H-pyrazol-5-yl)isoindoline-1,3-dione | 10 g | C1(=CC=CC=C1)C1=NNC(=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H11N3O2
